US06989392B2
3-((2-aminoquinolin-8-yl)oxy)propan-1-ol
A 100 mL round bottom flask equipped with a stirring bar and a pressure equalized dropping funnel, under N2, was charged with 0.652 g (2 equiv) PPh3, 0.200 g (1.25 mmol) of 2-amino-8-hydroxyquinoline and 10 mL of anhydr. THF. After stirring for 10 min, 1.8 mL of 1,3-propanediol (20 equiv) was added in one portion. The reaction mixture was then cooled to 0° C. and 0.43 g (1.5 equiv) of DBAD in 15 mL THF was added dropwise over 10 minutes. The reaction was allowed to slowly warm to room temperature and stirring was maintained for 8 h. Then, 0.652 g (2 equiv) of PPh3 was added, the reaction mixture was cooled to 0° C. and 0.431 g (1.5 equiv) of DBAD in 15 mL THF was added dropwise over 10 minutes. The reaction mixture was stirred at room temperature for 12 h. The solution was evaporated in vacuo, the residue was dissolved in DMA (25 mL) and MP-TsOH resin (Argonaut Technologies, Inc., 4.5 g) was added. The resulting suspension was agitated at room temperature for 12 h. The supernatant was subsequently drained and the resin was washed with DMA (2×20 mL), MeOH (2×20 mL) and DMA (20 mL). The washed resin was treated with a mixture of 2 N NH3 in MeOH (15 mL) and DMA (5 mL) at room temperature for 1 h. The solution was drained and the basic wash was repeated two more times. Filtered solutions were combined. The resin was washed with MeOH (20 mL), DMA (20 mL), MeOH (20 mL), DMA (20 mL) and MeOH (20 mL). The washes were combined with the previously collected solutions and evaporated in vacuo. The resulting crude material was purified by silica gel column chromatography (20:1 EtOAc/MeOH+2% TEA) to afford the title compound. 1H NMR (500 MHz, CDCl3) δ ppm 7.87 (d, 1H), 7.29 (dd, 1H), 7.17 (t, 1H), 7.12 (dd, 1H), 6.72 (d, 1H), 4.34 (t, 2H), 3.99 (t, 2H), 2.12 (m, 2H), MS (DCI/NH3) m/z 219 [M+H]+.

reactant | PPh3 | 0.652 g, 2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-amino-8-hydroxyquinoline | 1.25 mmol, 0.200 g | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | 1,3-propanediol | 1.8 mL, 20 equiv | C(CCO)O | C3H8O2
reactant | DBAD | 0.43 g, 1.5 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | PPh3 | 0.652 g, 2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DBAD | 0.431 g, 1.5 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-((2-aminoquinolin-8-yl)oxy)propan-1-ol | NC1=NC2=C(C=CC=C2C=C1)OCCCO | C12H14N2O2
